US07902367B2
Step 87b) 1-(tert-Butoxycarbonyl)-3-[2-[2-(4-chlorophenyl)-4-methylthiazol-5-yl]-2-oxoethyl]piperidine
In an argon atmosphere, a solution of 1.8 mol/L lithium diisopropylamide in heptane/tetrahydrofuran/ethylbenzene (1.22 mL, 2.19 mmol), chilled to −78° C., was added to 2-[2-(4-chlorophenyl)-4-methylthiazol-5-yl]-2-(trimethylsilyloxy)acetonitrile (669 mg, 1.99 mmol) in tetrahydrofuran (2 mL). The mixture was stirred for 20 min, followed by addition of 1-(tert-butoxycarbonyl)-3-iodomethylpiperidine (647 mg, 1.99 mmol) in tetrahydrofuran (2 mL). The mixture was further stirred for 1 hour as it warmed from −78° C. to room temperature. 0.5 mol/L ice-chilled hydrochloric acid was then added and the mixture was further stirred for 10 min. Subsequently, the mixture was extracted with ethyl acetate and washed sequentially with a saturated aqueous sodium bicarbonate solution and brine. The washed product was dried over magnesium sulfate and the solvent was evaporated. Purification of the resulting residue by silica gel column chromatography (hexane:ethyl acetate=20:1->5:1) gave 429 mg (50%) of the desired compound as a yellow oil.

reactant | lithium diisopropylamide | 1.8 mol/L | C(C)(C)[N-]C(C)C.[Li+]
reactant | heptane tetrahydrofuran ethylbenzene | 2.19 mmol, 1.22 mL | CCCCCCC.O1CCCC1.C(C)C1=CC=CC=C1
reactant | 2-[2-(4-chlorophenyl)-4-methylthiazol-5-yl]-2-(trimethylsilyloxy)acetonitrile | 1.99 mmol, 669 mg | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)C(C#N)O[Si](C)(C)C | C15H17ClN2OSSi
reactant | 1-(tert-butoxycarbonyl)-3-iodomethylpiperidine | 1.99 mmol, 647 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)CI | C11H20INO2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 1-(tert-Butoxycarbonyl)-3-[2-[2-(4-chlorophenyl)-4-methylthiazol-5-yl]-2-oxoethyl]piperidine | 429 mg, 50% | C(C)(C)(C)OC(=O)N1CC(CCC1)CC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)Cl)C | C22H27ClN2O3S
